US08071595B2
To a stirred solution of 5-(benzo[c][1,2,5]oxadiazol-5-yl)-2,2-dimethylfuran-3(2H)-one (0.25 g, 1.086 mmol) in CHCl3 (15 mL), NBS (0.29 g, 1.630 mmol) was added portionwise at RT. The reaction mixture was then stirred for 3 h and diluted with DCM (10 mL). The organic layer was then washed with water (5 mL) and brine (10 mL), dried over Na2SO4, filtered, and then concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 5-(benzo[c][1,2,5]oxadiazol-5-yl)-4-bromo-2,2-dimethylfuran-3(2H)-one (0.2 g, 60%) as a yellow solid.

reactant | 5-(benzo[c][1,2,5]oxadiazol-5-yl)-2,2-dimethylfuran-3(2H)-one | 1.086 mmol, 0.25 g | N=1ON=C2C1C=CC(=C2)C2=CC(C(O2)(C)C)=O | C12H10N2O3
reactant | NBS | 1.630 mmol, 0.29 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(benzo[c][1,2,5]oxadiazol-5-yl)-4-bromo-2,2-dimethylfuran-3(2H)-one | 0.2 g, 60% | N=1ON=C2C1C=CC(=C2)C2=C(C(C(O2)(C)C)=O)Br | C12H9BrN2O3
